US09353081B2
[C] 6-Bromo-7-chloro-1-methyl-3,4-dihydro-1H-quinolin-2-one
Potassium tert-butoxide (0.45 g, 4.0 mmol) was added at 0° C. to a solution of 6-bromo-7-chloro-3,4-dihydro-1H-quinolin-2-one (0.52 g, 2.0 mmol) in DMF (5 mL). Then, the reaction mixture was stirred at 0° C. for 30 min and methyl iodide (0.18 g, 1.29 mmol) was added. The resulting mixture was then stirred for 2 h before water was added. After extraction of the reaction mixture with EtOAc, the organic layer was washed with water and brine in sequence. Then, the organic layer was dried over anhy. Na2SO4 and the solvent was removed under reduced pressure to give a crude product (0.49 g, 90% yield) as a white solid. MS: 274.0 (M+H)+.

reactant | Potassium tert-butoxide | 4.0 mmol, 0.45 g | CC(C)([O-])C.[K+]
reactant | 6-bromo-7-chloro-3,4-dihydro-1H-quinolin-2-one | 2.0 mmol, 0.52 g | BrC=1C=C2CCC(NC2=CC1Cl)=O | C9H7BrClNO
reactant | methyl iodide | 1.29 mmol, 0.18 g | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-7-chloro-1-methyl-3,4-dihydro-1H-quinolin-2-one | 0.49 g, 90% yield | BrC=1C=C2CCC(N(C2=CC1Cl)C)=O | C10H9BrClNO
